US06831081B2
Diethyl 2-(((3-(Ethoxycarbonyl)-4-methylthien-2-yl)amino)methylene)malonate.
A mixture of ethyl 2-amino-4-methylthiophene-3-carboxylate (5.23 g) and diethyl ethoxymethylenemalonate (5.71 mL) is heated to 135° C. for 3 h with a stream of nitrogen passing through the flask. The mixture is allowed to cool to room temperature. The resulting solid is recrystallized (EtOH, 250 mL) to afford 9.23 g of the title compound as yellow needles. Physical characteristics. M.p. 126-128° C.; 1H NMR (400 MHz, DMSO-d6) δ12.36, 8.08, 6.77, 4.34, 4.24, 4.15, 2.31, 1.34, 1.27, 1.25; MS (ESI+) m/z 356 (M+H)+. Anal. Found: C, 54.12; H, 5.95; N, 3.99.; S, 8.99.

reactant | ethyl 2-amino-4-methylthiophene-3-carboxylate | 5.23 g | NC=1SC=C(C1C(=O)OCC)C | C8H11NO2S
reactant | diethyl ethoxymethylenemalonate | 5.71 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl 2-(((3-(Ethoxycarbonyl)-4-methylthien-2-yl)amino)methylene)malonate | 9.23 g | C(C)OC(=O)C1=C(SC=C1C)NC=C(C(=O)OCC)C(=O)OCC | C16H21NO6S
